US08183240B2
A mixture of ethyl 4-cyano-3-iodo-5-(methylsulfonyl)thiophene-2-carboxylate (718 mg, 0.00186 mol), 2-(fluoromethyl)morpholine hydrochloride (348 mg, 0.00224 mol) and TEA (1.0 mL, 0.0072 mol) in THF (7.1 mL, 0.088 mol) was flushed with argon and then heated at 90° C. overnight. The reaction mixture was concentrated and purified by column chromatography to give ethyl 4-cyano-5-(2-(fluoromethyl)morpholino)-3-iodothiophene-2-carboxylate (288 mg, 36.4%). LCMS: (FA) ES+ 425, 1H NMR (400 MHz, d1-chloroform) δ: 4.57 (d, 1H), 4.46 (d, 1H), 4.34 (q, 2H), 4.12-4.05 (m, 1H), 4.02-3.77 (m, 4H), 3.34-3.25 (m, 1H), 3.22-3.14 (m, 1H), 1.37 (t, 3H).

reactant | ethyl 4-cyano-3-iodo-5-(methylsulfonyl)thiophene-2-carboxylate | 0.00186 mol, 718 mg | C(#N)C=1C(=C(SC1S(=O)(=O)C)C(=O)OCC)I | C9H8INO4S2
reactant | 2-(fluoromethyl)morpholine hydrochloride | 0.00224 mol, 348 mg | Cl.FCC1CNCCO1
reactant | THF | 0.088 mol, 7.1 mL | C1CCOC1 | C4H8O
product | ethyl 4-cyano-5-(2-(fluoromethyl)morpholino)-3-iodothiophene-2-carboxylate | 288 mg, 36.4% | C(#N)C=1C(=C(SC1N1CC(OCC1)CF)C(=O)OCC)I | C13H14FIN2O3S
